US05998433
a) Synthesis of N,N-dimethyl-[6-[4-(2-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.160 g (1.000 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride, 0.237 g (1.0 mmol) of 4-(2-phenylcyclopropyl)benzoic acid and 0.55 ml (4.0 mmol) of triethylamine in 30 ml of N,N-dimethylformamide, 0.245 g (1.5 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. Water was added, followed by 2 extractions with ethyl acetate. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was dissolved in 10 ml of acetic acid; 0.135 ml (1.50 mmol) of 50% aqueous dimethylamine and 0.122 ml (1.50 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 90 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate, and extracted with ethyl acetate 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate/methanol=5/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 1.000 mmol, 0.160 g | Cl.O1C=CC2=C1CNCC2
reactant | 4-(2-phenylcyclopropyl)benzoic acid | 1.0 mmol, 0.237 g | C1(=CC=CC=C1)C1C(C1)C1=CC=C(C(=O)O)C=C1 | C16H14O2
reactant | triethylamine | 4.0 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.5 mmol, 0.245 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | dimethylamine | 1.50 mmol, 0.135 ml | CNC | C2H7N
reactant | formaldehyde | 1.50 mmol, 0.122 ml | C=O | CH2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N,N-dimethyl-[6-[4-(2-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C2C(C2)C2=CC=CC=C2)=O)O1 | C26H28N2O2
